US09284272B2
2-(4-(3-cyclopentylpropoxy)-5-methoxy-2-nitrophenyl)-2-methylpropanenitrile (0.126 g, 0.365 mmol), from Step 3, was treated in a manner analogous to that described for 1-(5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)cyclobutanecarbonitrile in Step 5 of Example 7. Purification of the crude product by flash chromatography (silica gel, 10-30% MeOH/DCM) afforded 43 mg (37%) of 6-(3-cyclopentylpropoxy)-5-methoxy-3,3-dimethyl-3H-indol-2-amine 1H NMR (400 MHz, DMSO) δ 7.20 (s, 1H), 6.80 (s, 1H), 3.93 (t, J=6.5 Hz, 2H), 3.75 (s, 3H), 1.84-1.67 (m, 6H), 1.62-1.54 (m, 2H), 1.53-1.48 (m, 2H), 1.48-1.44 (m, 5H), 1.43-1.40 (m, 2H), 1.14-1.02 (m, 2H). MS (ESI) m/z 317 (M+H)+.

reactant | 2-(4-(3-cyclopentylpropoxy)-5-methoxy-2-nitrophenyl)-2-methylpropanenitrile | 0.365 mmol, 0.126 g | C1(CCCC1)CCCOC1=CC(=C(C=C1OC)C(C#N)(C)C)[N+](=O)[O-] | C19H26N2O4
reactant | 1-(5-methoxy-2-nitro-4-(3-(pyrrolidin-1-yl)propoxy)phenyl)cyclobutanecarbonitrile | COC=1C(=CC(=C(C1)C1(CCC1)C#N)[N+](=O)[O-])OCCCN1CCCC1 | C19H25N3O4
product | 6-(3-cyclopentylpropoxy)-5-methoxy-3,3-dimethyl-3H-indol-2-amine | 43 mg, 37% | C1(CCCC1)CCCOC1=C(C=C2C(C(=NC2=C1)N)(C)C)OC | C19H28N2O2
